US06548496B2
4-(3-Bromo-phenylamino)-6-nitro-[1,8]naphthyridine-3-carbonitrile
A mixture of 7.5 g (32 mmol) of 4-chloro-6-nitro-[1.8]naphthyridine-3-carbonitrile and 5.5 g (32 mmol) of 3-bromo-aniline in 175 ml of isopropanol was stirred at reflux for 2 hr. and 45 min. The mixture was cooled, solid was collected, and washed with ether giving 12.9 g of the title compound as the yellow hydrochloride salt: mass spectrum (electrospray, m/e): M+H 370, 373.

reactant | 4-chloro-6-nitro-[1.8]naphthyridine-3-carbonitrile | 32 mmol, 7.5 g | ClC1=C(C=NC2=NC=C(C=C12)[N+](=O)[O-])C#N | C9H3ClN4O2
reactant | 3-bromo-aniline | 32 mmol, 5.5 g | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | isopropanol | 175 ml | C(C)(C)O | C3H8O
product | 4-(3-Bromo-phenylamino)-6-nitro-[1,8]naphthyridine-3-carbonitrile | BrC=1C=C(C=CC1)NC1=C(C=NC2=NC=C(C=C12)[N+](=O)[O-])C#N | C15H8BrN5O2
